US08859591B2
Step B: 3-(4-(1-(2-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyrimidin-5-ylamino)butyl)benzamido)propanoic acid, Isomer 1
The title compound was prepared by a method analogous to that described in Step C of Example 109, using Isomer 2 of methyl 3-(4-(1-(2-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyrimidin-5-ylamino)butyl)benzamido)propanoate. 1H NMR (400 MHz, CD3OD, δ): 8.73 (s, 1H), 7.97 (s, 2H), 7.89 (s, 1H), 7.68 (d, J=8.4 Hz, 2H), 7.38 (d, J=8.4 Hz, 2H), 4.40 (t, J=6.8 Hz, 1H), 3.50 (t, J=6.8 Hz, 2H), 2.52 (t, J=6.4 Hz, 2H), 1.67-1.82 (m, 2H), 1.20-1.50 (m, 2H), 0.87 (t, J=7.2 Hz, 3H). MS (M+1) 477.2. Chiral SFC: Chiralpak AD-3, 4.6×150 mm, 3 μm. Modifier: 0.05% DEA. Gradient: 95% CO2/5% methanol linear to 60% CO2/40% methanol over 16.0 minutes. Flow rate: 2.5 mL/min. Retention time: 7.69 minutes, 99.8% ee (Isomer 1).

reactant | methyl 3-(4-(1-(2-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyrimidin-5-ylamino)butyl)benzamido)propanoate | FC(C=1C=NN(C1)C1=NC=C(C=N1)NC(CCC)C1=CC=C(C(=O)NCCC(=O)OC)C=C1)(F)F | C23H25F3N6O3
reactant | CO2 | C(=O)=O | CO2
product | 3-(4-(1-(2-(4-(trifluoromethyl)-1H-pyrazol-1-yl)pyrimidin-5-ylamino)butyl)benzamido)propanoic acid | FC(C=1C=NN(C1)C1=NC=C(C=N1)NC(CCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1)(F)F | C22H23F3N6O3
